US04286095
9.6 Ml of 10% sodium hydroxide solution was added to a solution of 2.46 ml (0.024 mole) of thiophenol in 15 ml of ethylene glycol and the resulting solution stirred at room temperature for five minutes. 1.9 G (0.01 mole) of 3,4-epoxy-1-methyl-4-phenyl-piperidine was added with stirring to the above solution and the resulting solution stirred at room temperature for a further one hour. A solid began to separate after five minutes. The solid was filtered and suspended in acetone. Filtration of the solid gave 2.6 g of 3-hydroxy-1-methyl-4-phenyl-4-phenylthio-piperidine as a white solid having a melting point of 217°-9° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | thiophenol | 0.024 mole, 2.46 ml | C1(=CC=CC=C1)S | C6H6S
reactant | 3,4-epoxy-1-methyl-4-phenyl-piperidine | 0.01 mole | O1C2CN(CCC21C2=CC=CC=C2)C | C12H15NO
solvent | ethylene glycol | 15 ml | C(CO)O | C2H6O2
product | 3-hydroxy-1-methyl-4-phenyl-4-phenylthio-piperidine | 2.6 g | OC1CN(CCC1(SC1=CC=CC=C1)C1=CC=CC=C1)C | C18H21NOS
